US09328118B2
Tris(dimethylamino)sulfonium difluorotrimethylsilicate (239 mg) was added to a mixture of 4-[4-fluoro-3-(trifluoromethyl)phenyl]-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (200 mg) and DMAc (3 mL), and the mixture was stirred at 100° C. for 1 hour under microwave irradiation. After the reaction mixture was cooled to room temperature, the reaction mixture was purified by silica gel column chromatography (Hex:EtOAc=98:2 to 60:40), whereby 4-[4-fluoro-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (81 mg) was obtained as a pale yellow solid.

reactant | 4-[4-fluoro-3-(trifluoromethyl)phenyl]-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 200 mg | FC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C(F)(F)F | C21H12F4N4O2S
solvent | DMAc | 3 mL | CC(=O)N(C)C | C4H9NO
product | 4-[4-fluoro-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 81 mg | FC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)NC=C2)C(F)(F)F | C14H6F4N4
